US05556861
A suspension of 1.16 g of 7,8-difluoro-1-methyl-4-oxo-l,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 1.38 g of 3-aminoazetidine in 15 cm3 of dimethyl sulphoxide is heated with stirring to a temperature in the region of 95° C. for 6 hours. After cooling to approximately 20° C., 100 cm3 of water are added to the reaction mixture. The insoluble matter is drained, washed with 3 times 20 cm3 of water, taken up with 100 cm3 of water and treated with 4 cm3 of N methanesulphonic acid. After removal of some slight insoluble matter by filtration through diatomaceous silica and addition of 4 cm3 of N aqueous sodium hydroxide, the suspension obtained is concentrated under reduced pressure (20 kPa) at a temperature in the region of 60°C. to a volume of approximately 80 cm3. The insoluble matter is drained, washed with 100 cm3 of water and 100 cm3 of ethanol and recrystallized in 150 cm3 of dimethylformamide. 0.7 g of 8-(3-amino-1-azetidinyl)-7-fluoro-1-methyl-4-oxo1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid, which decomposes at 358° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-l,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.16 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | 3-aminoazetidine | 1.38 g | NC1CNC1 | C3H8N2
reactant | water | 100 cm3 | O | H2O
solvent | dimethyl sulphoxide | 15 cm3 | CS(=O)C | C2H6OS
product | 8-(3-amino-1-azetidinyl)-7-fluoro-1-methyl-4-oxo1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 0.7 g | NC1CN(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C17H15FN4O3
